US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(1H-indol-6-yl)-propionic acid ethyl ester (preparation 11) was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole to give rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethyl]-1H-indol-6-yl}-propionic acid as yellow viscous oil.

reactant | rac-2-ethoxy-3-(1H-indol-6-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C2C=CNC2=C1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C | C13H14ClNS
product | rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethyl]-1H-indol-6-yl}-propionic acid | C(C)OC(C(=O)O)CC1=CC=C2C=CN(C2=C1)CC=1N=C(SC1)C1=CC=C(C=C1)C(C)C | C26H28N2O3S
